US08039124B2
2-phenyl-4-(p-dimethylaminostyryl)pyridine L7
To a mixture of 2-phenyl-4-methylpyridine hydrochloride (1 g, 4.86 mmol) and 4-dimethylaminobenzaldehyde (0.725 g, 4.86 mmol) in anhydrous DMF (30 ml) was added solid tBuOK and the resulting mixture was stirred 5 hours at room temperature under nitrogen. Water (200 ml) was then added, the resulting yellow precipitate was filtered off and successively washed with water and Et2O to afford 650 mg (44%) of the titled compound as a yellow solid.

reactant | 2-phenyl-4-methylpyridine hydrochloride | 4.86 mmol, 1 g | Cl.C1(=CC=CC=C1)C1=NC=CC(=C1)C
reactant | 4-dimethylaminobenzaldehyde | 4.86 mmol, 0.725 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | tBuOK | C(C)(C)(C)O[K]
reactant | Water | 200 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-phenyl-4-(p-dimethylaminostyryl)pyridine | 650 mg, 44% | C1(=CC=CC=C1)C1=NC=CC(=C1)C=CC1=CC=C(C=C1)N(C)C | C21H20N2
